US05100895
5-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-2,3-dihydro-12-morpholinodiimidazo[1,5-a:1',2'-c]quinazoline
A solution of 5-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline (0.25 g, 0.7 mmol) in a mixture of morpholine (10 ml) and DMF (15 ml) was heated at 120° C. for 6 h. Then the solvent was evaporated and the solid residue was triturated with 10 ml of water, filtered off and dried to give the title compound as pale crystals, m.p. 217°-220° C. Yield 0.16 g (57%). (Compound 46).

reactant | 5-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline | 0.7 mmol, 0.25 g | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N1C(C=3C(=CC=CC23)F)=NCC1 | C17H13FN6O
reactant | morpholine | 10 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-2,3-dihydro-12-morpholinodiimidazo[1,5-a:1',2'-c]quinazoline | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N1C(C=3C(=CC=CC23)N2CCOCC2)=NCC1 | C21H21N7O2
